US07655686B2
c) 2-[2-(1-methoxycarbonyl-(S)-ethylamino)-ethyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
271 mg (1 mmol) 2-(2-oxo-ethyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester and 154 mg (1.1 mmol) L-alanine methyl ester hydrochloride are suspended in 10 mL toluene and treated with 0.073 mL (1 eq.) triethylamine. The reaction mixture is stirred 10 minutes at room temperature and slowly evaporated in a rotary evaporator. The residue is taken up in 15 mL acetonitrile and 95 mg (1.5 mmol) sodium cyanoborohydride in 2 mL methanol added dropwise. Upon completion of the reaction (TLC, EtOAc/petroleum ether 4:1), the reaction mixture is evaporated and the residue taken up in ethyl acetate and treated with an ice-cold, saturated aqueous ammonium chloride solution, then extracted with ethyl acetate and saturated aqueous sodium bicarbonate. The combined organic phases are dried over sodium sulfate, filtered and evaporated to yield the crude desired product as a thick oil.

reactant | 2-(2-oxo-ethyl)-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 1 mmol, 271 mg | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CC=O | C13H21NO5
reactant | L-alanine methyl ester hydrochloride | 1.1 mmol, 154 mg | Cl.COC([C@@H](N)C)=O
reactant | triethylamine | 0.073 mL, 1 eq. | C(C)N(CC)CC | C6H15N
reactant | sodium cyanoborohydride | 1.5 mmol, 95 mg | C(#N)[BH3-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 2 mL | CO | CH4O
product | 2-[2-(1-methoxycarbonyl-(S)-ethylamino)-ethyl]-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCN[C@@H](C)C(=O)OC | C17H30N2O6
